US05300655
5-[(N,N-Dimethylamino)carbonyl]-2-thiophenecarboxaldehyde
To a solution of 5-formyl-2-thiophenecarboxylic acid (prepared according to Carpenter, A. J., et al., Tetrahedron 41:3808 (1985)) (2.75 g, 17.61 mmoles) in 75 ml of tetrahydrofuran was added 1,1'-carbonyldiimidazole (3.71 g, 22.88 mmoles), the solution stirred under dry argon for 21/2 hours and treated with excess gaseous dimethylamine. The solution was concentrated in vacuo to an oil which was dissolved in ethyl acetate (100 ml) and extracted with 1N hydrochloric acid (2×50 ml) followed by 5% sodium bicarbonate (2×50 ml). Each of the aqueous layers was backwashed with ethyl acetate (2×50 ml) and the combined organic layers were dried (magnesium sulfate). Concentration in vacuo furnished a pale yellow solid (2.42 g, 75%). EIMS (m/z): 183 (M+, 82%), 154 (M+ --CHO, 7%), 139 (M+ --(CH3)2N, base) and 111 (M+ -- (CH3)2NCO, 59%); 1HNMR (CDCl3) delta, 9.91 (1H, s), 7.67 (1H, d, J=4.0 Hz), 7.35 (1H, d, J=4.0 Hz), 3.13 (6H, br s). This material was used directly without further purification.

reactant | 5-formyl-2-thiophenecarboxylic acid | C(=O)C1=CC=C(S1)C(=O)O | C6H4O3S
reactant | 1,1'-carbonyldiimidazole | 22.88 mmoles, 3.71 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 5-[(N,N-Dimethylamino)carbonyl]-2-thiophenecarboxaldehyde | 2.42 g, 75% | CN(C)C(=O)C1=CC=C(S1)C=O | C8H9NO2S
